US04659706
8-Hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide is treated with one equivalent of sodium hydroxide in aqueous solution. Extracting into chloroform and evaporating gives 8-hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 8-Hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC=1C(=CC2=C(CCNCC2)C1)S(=O)(=O)C
reactant | sodium hydroxide | one equivalent | [OH-].[Na+]
product | 8-hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine | OC=1C(=CC2=C(CCNCC2)C1)S(=O)(=O)C | C11H15NO3S
